US06403601B1
(d) 3-(4-Chlorophenyl)-4-(ethoxycarbonylamino)-1-butanol
Ethyl chloroformate (4.7 mL, 49.5 mmol) was added dropwise to a stirred cooled (−40° C.) solution of 3-(4-chlorophenyl)-4-amino-1-butanol (9.0 g, 45 mmol) and triethylamine (7.2 mL, 51.8 mmol) in DCM (125 mL). The solution was stirred at room temperature for 30 min and poured into 1N HCl (60 mL). The organic layer was washed with 1N HCl (70 mL), saturated sodium bicarbonate (70 mL) and saturated sodium chloride; dried (MgSO4), filtered and the solvent removed to provide the title compound (11.4 g, 93%) as a yellow oil. 1H-NMR (CDCl3): δ 1.18-1.23 (t, 3H CH) 1.75-1.84 (m, 1H, CH) 1.90-1.99 (m, 1H, CH) 2.94-2.99 (m, 1H, CH) 3.21-3.30 (m, 1H, CH) 3.47-3.65 (m, 3H, CH) 4.04-4.11 (q, 2H, CH) 4.58 (s, 1H, OH or NH) 7.12-7.15 (d, 2R, ArH) 7.26-7.37 (m, 2H, ArH); MS m/z 272 (M+H).

reactant | Ethyl chloroformate | 49.5 mmol, 4.7 mL | ClC(=O)OCC | C3H5ClO2
reactant | 3-(4-chlorophenyl)-4-amino-1-butanol | 45 mmol, 9.0 g | ClC1=CC=C(C=C1)C(CCO)CN | C10H14ClNO
reactant | triethylamine | 51.8 mmol, 7.2 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 60 mL | Cl | ClH
solvent | DCM | 125 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Chlorophenyl)-4-(ethoxycarbonylamino)-1-butanol | 11.4 g, 93% | ClC1=CC=C(C=C1)C(CCO)CNC(=O)OCC | C13H18ClNO3
